US07910731B2
The alkylating agent used, cis-4-(tert.butyloxycarbonylamino)-1-(4-methylphenylsulphonyloxy)-cyclohexane (mass spectrum (ESI+): m/z=370 [M+H]+) was prepared by reacting cis-4-(tert.butyloxycarbonylamino)-cyclohexanol with 4-methylphenyl-sulphonyl chloride in pyridine.

reactant | cis-4-(tert.butyloxycarbonylamino)-cyclohexanol | C(C)(C)(C)OC(=O)N[C@H]1CC[C@H](CC1)O | C11H21NO3
reactant | 4-methylphenyl-sulphonyl chloride | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | cis-4-(tert.butyloxycarbonylamino)-1-(4-methylphenylsulphonyloxy)-cyclohexane | C(C)(C)(C)OC(=O)N[C@H]1CC[C@H](CC1)OS(=O)(=O)C1=CC=C(C=C1)C | C18H27NO5S
